US09304126B2
2-(2-(2-(Aminomethyl)-4-(dibenzo[b,f][1,4]thiazepin-11-yl)piperazin-1-yl)ethoxy)ethanol
A mixture of N-((4-(dibenzo[b,f][1,4]thiazepin-11-yl)-1-(2-(2-hydroxyethoxy)ethyl)piperazin-2-yl)methyl)-2,2,2-trifluoroacetamide, prepared as described in the previous step, (2.0 g) and aqueous potassium carbonate (5%) (15 mL) in methanol (20 mL) was stirred at room temperature for 18 hours and extracted with ethyl acetate. The organic layers were washed with saturated aqueous sodium chloride, dried over sodium sulfate, filtered, evaporated to give the crude product which was purified by column chromatography, and followed by prep-HPLC to provide the title compound as a yellow solid. ESI-MS (M+1): 413 calc. for C22H28N4O2S 412. 1H NMR: (CDCl3, 400 MHz): δ (ppm) 7.52-7.50 (m, 1H), 7.41-7.31 (m, 4H), 7.17-7.12 (m, 1H), 7.02-7.00 (m, 1H), 6.89-6.84 (m, 1H), 3.66-3.59 (m, 5H), 3.54-3.51 (m, 2H), 3.49-3.38 (m, 1H), 3.19-3.12 (m, 1H), 3.03-2.88 (m, 2H), 2.79-2.53 (m, 5H).

reactant | N-((4-(dibenzo[b,f][1,4]thiazepin-11-yl)-1-(2-(2-hydroxyethoxy)ethyl)piperazin-2-yl)methyl)-2,2,2-trifluoroacetamide | C1=CC=CC2=C1C(=NC1=C(S2)C=CC=C1)N1CC(N(CC1)CCOCCO)CNC(C(F)(F)F)=O | C24H27F3N4O3S
reactant | potassium carbonate | 15 mL | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 mL | CO | CH4O
product | 2-(2-(2-(Aminomethyl)-4-(dibenzo[b,f][1,4]thiazepin-11-yl)piperazin-1-yl)ethoxy)ethanol | NCC1N(CCN(C1)C1=NC2=C(SC3=C1C=CC=C3)C=CC=C2)CCOCCO | C22H28N4O2S
